US05461067
A. 3-Carboethoxy-5-(3-hydroxybutyl)-isoxazoline
To a solution of 6 g of 3-hydroxy-5-hexene in 150 ml of diethyl ether was added 18.1 g of ethyl chlorooximidoacetate. The solution was cooled to 0° C., and a solution of 21 ml of triethylamine in 210 ml of diethyl ether was added over 2.5 h. The amine hydrochloride salt was filtered and the residue was purified by silica gel column chromatography (5% to 10% EtOAc in CH2Cl2) to provide 5.5 g of desired product.

reactant | 3-hydroxy-5-hexene | 6 g | OC(CC)CC=C | C6H12O
reactant | ethyl chlorooximidoacetate | 18.1 g | CCOC(=O)/C(=N\O)/Cl | C4H6ClNO3
reactant | triethylamine | 21 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl ether | 150 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 210 ml | C(C)OCC | C4H10O
product | 3-Carboethoxy-5-(3-hydroxybutyl)-isoxazoline | 5.5 g | C(=O)(OCC)C1=NOC(C1)CCC(C)O | C10H17NO4
